US08053167B2
Synthesis of pentaerythritol tris(3-mercaptobutyrate) (PE3MB)
A 200 ml three-necked flask was charged with 15.0 g (110.2 mmol) of pentaerythritol (manufactured by TOKYO CHEMICAL INDUSTRY CO., LTD.), 26.5 g (220.3 mmol) of 3-mercaptobutanoic acid (manufactured by YODO KAGAKU CO., LTD.), 1.8 g (9.3 mmol) of p-toluenesulfonic acid monohydrate (manufactured by JUNSEI CHEMICAL CO., LTD.) and 35 g of toluene (manufactured by JUNSEI CHEMICAL CO., LTD.). A Dean-Stark apparatus and a condenser tube were attached. The materials were heated in an oil bath at 130° C. with stirring. After 4 hours after the reaction was initiated, 13.3 g (110.1 mmol) of 3-mercaptobutanoic acid was added. Further, 0.85 g (4.5 mmol) of p-toluenesulfonic acid monohydrate was added after 6 hours from the initiation of the reaction. The reaction was carried out for another 4 hours. The reaction liquid was allowed to cool, was neutralized with 200 ml of a saturated aqueous sodium hydrogen carbonate solution, and was washed twice with 200 ml of pure water. The reaction liquid was then dehydrated and dried over anhydrous magnesium sulfate (manufactured by JUNSEI CHEMICAL CO., LTD.) and was distilled to remove the toluene, thereby giving a mixture containing the target compound. PE3MB obtained was a colorless transparent liquid and weighed 22.5 g, providing 47% yield. The composition formula of PE3MB was C17H30O7S3 and the molecular weight was 442.61.

reactant | pentaerythritol | 110.2 mmol, 15.0 g | OCC(CO)(CO)CO | C5H12O4
reactant | 3-mercaptobutanoic acid | 220.3 mmol, 26.5 g | SC(CC(=O)O)C | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 9.3 mmol, 1.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-mercaptobutanoic acid | 110.1 mmol, 13.3 g | SC(CC(=O)O)C | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 4.5 mmol, 0.85 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 35 g | C1(=CC=CC=C1)C | C7H8
product | pentaerythritol tris(3-mercaptobutyrate) | 47% yield | SC(CC(=O)OCC(COC(CC(C)S)=O)(COC(CC(C)S)=O)CO)C | C17H30O7S3
